US04500526
7-[(Z)-2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(2-methylamino-5-thiazolo[4,5-c]pyridinio)methyl]-3-cephem-4-carboxylate (Iy)
A solution of AgClO4 (207 mg, 1.0 mmole) in THF (1 ml) was added in approximately four equal portions, during one hour, to a stirred solution at 25° C. of benzhydryl 3-iodomethyl-7-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate [VIIa] (913 mg, 1.0 mmole) and 2-methylaminothiazolo[4,5-c]pyridine (165 mg, 1.0 mmole) in THF (8 ml). Stirring was continued for an additional hour. The mixture was filtered through diatomaceous earth and the filtrate concentrated. A solution of the residue in CH2Cl2 was washed with dilute aqueous HCl and then with brine. The CH2Cl2 layer was dried over Na2SO4 and concentrated to leave the crude protected quaternized cephalosporin as a brown froth. Concentrated HCl (0.5 ml) was added to a stirred solution of the froth in 95-97% formic acid (15 ml) at 25° C. The solution was stirred for 50 minutes and then was diluted with H2O (20 ml). The resulting mixture was filtered and the filtrate concentrated on a rotary evaporator. The residue was suspended in H2O (20 ml), and the pH of the stirred mixture was adjusted to 5.1 with dilute NaOH. The mixture was filtered and the product isolated from the filtrate by high performance low pressure liquid chromatography (HPLPLC). The filtrate was applied to a glass column (300×22 mm) which was packed with Waters PrepPAK-500/C18. The column was eluted first with H2O and then with H2O-10% acetonitrile to elute the title compound. The appropriate fractions were combined and partially concentrated to remove the CH3CN. The aqueous solution was lyophilized to afford 154 mg of the title compound (Iy).

reactant | benzhydryl 3-iodomethyl-7-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate | 1.0 mmole, 913 mg | ICC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(\C(\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=N/OC)=O)=O | C46H38IN5O5S2
reactant | 2-methylaminothiazolo[4,5-c]pyridine | 1.0 mmole, 165 mg | CNC=1SC2=C(C=NC=C2)N1 | C7H7N3S
reactant | HCl | 0.5 ml | Cl | ClH
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | formic acid | 15 ml | C(=O)O | CH2O2
solvent | H2O | 20 ml | O | H2O
product | 7-[(Z)-2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(2-methylamino-5-thiazolo[4,5-c]pyridinio)methyl]-3-cephem-4-carboxylate | 154 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC3=C(C=C2)SC(=N3)NC)C(=O)[O-])C1=O)=N/OC | C21H20N8O5S3
